US04647569
A mixture of 2-amino-5-bromopyridine (38 g) and 1,1-bis(phenylsulphonyl)-2-ethoxyethene [70 g; prepared as described by Stetter et al, Monatshefte fur Chemie, 103, 1262-1270 (1972)] in toluene (1 liter) was slowly distilled during a period of 2 hours, maintaining the volume approximately constant by the gradual addition of further toluene to replace the liquid removed by the distillation. The mixture was then concentrated under vacuum and the residue was recrystallised twice from a mixture of chloroform and ethanol, to give 1,1-bis(phenylsulphonyl)-2-(5-bromopyrid-2-ylamino)ethene (80 g) m.p. 177°-179° C.

reactant | 2-amino-5-bromopyridine | 38 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 1,1-bis(phenylsulphonyl)-2-ethoxyethene | 70 g | C1(=CC=CC=C1)S(=O)(=O)C(=COCC)S(=O)(=O)C1=CC=CC=C1 | C16H16O5S2
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | 1,1-bis(phenylsulphonyl)-2-(5-bromopyrid-2-ylamino)ethene | 80 g | C1(=CC=CC=C1)S(=O)(=O)C(=CNC1=NC=C(C=C1)Br)S(=O)(=O)C1=CC=CC=C1 | C19H15BrN2O4S2
